US04083948
2-(Bromoacetamido)-5-chloro-4'-(2,2,2-trifluoroacetamido)-benzophenone
To a stirred mixture of 56 g (0.163 mole) of 2-amino-5-chloro-4'-(2,2,2-trifluoroacetamido)-benzophenone in 900 ml of ether was added 43 g (0.213 mole) of bromoacetyl bromide and a saturated aqueous solution of sodium bicarbonate in portions, keeping the solution slightly basis during the addition. The reaction was stirred for 90 min and filtered to give 66 g of product. The ether layer was dried and evaporated and the residual oil was crystallized from methanol to give an additional 10 g of the product for a total yield of 76 g (96%). Recrystallization from a mixture of dichloromethane, methanol and petroleum ether gave an analytical sample of off white rods, mp 198°-201° ir (KBr) 1750, 1663, 1640 cm-1 (3C=O).

reactant | 2-amino-5-chloro-4'-(2,2,2-trifluoroacetamido)-benzophenone | 0.163 mole, 56 g | NC1=C(C(=O)C2=CC=C(C=C2)NC(C(F)(F)F)=O)C=C(C=C1)Cl | C15H10ClF3N2O2
reactant | bromoacetyl bromide | 0.213 mole, 43 g | BrCC(=O)Br | C2H2Br2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ether | 900 ml | CCOCC | C4H10O
product | 2-(Bromoacetamido)-5-chloro-4'-(2,2,2-trifluoroacetamido)-benzophenone | 66 g | BrCC(=O)NC1=C(C(=O)C2=CC=C(C=C2)NC(C(F)(F)F)=O)C=C(C=C1)Cl | C17H11BrClF3N2O3
